US07335660B2
d) (1S)-1-{2-[(2R)-4-(1-{[tert-Butyl(diphenyl)silyl]-oxy}-1,2-dihydro-5-acenaphthylenyl)-2-methyl-piperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-carboxamide
(3R)-1-(1-{[tert-Butyl(diphenyl)silyl]oxy}-1,2-dihydro-5-acenaphthylenyl)-3-methylpiperazine was condensed with 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate, as described for Example 1b).

reactant | (3R)-1-(1-{[tert-Butyl(diphenyl)silyl]oxy}-1,2-dihydro-5-acenaphthylenyl)-3-methylpiperazine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CC2=CC=C(C3=CC=CC1=C23)N2C[C@H](NCC2)C | C33H38N2OSi
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
product | (1S)-1-{2-[(2R)-4-(1-{[tert-Butyl(diphenyl)silyl]-oxy}-1,2-dihydro-5-acenaphthylenyl)-2-methyl-piperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-carboxamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CC2=CC=C(C3=CC=CC1=C23)N2C[C@H](N(CC2)CC[C@@H]2OCCC3=C2C=CC(=C3)C(=O)N)C | C45H51N3O3Si
